US05036074
starting from 2-(2,4-dichlorophenyl)-1-(3-pyridyl)-4-pentyn-1-one and chloromethyltriphenylphosphonium chloride there is obtained 3-[α-chloromethylene-2,4-dichloro-β-(2-propynyl)-phenethyl]-pyridine as an isomer-pure compound in the form of white crystals, m.p. 87-88° C.;

reactant | 2-(2,4-dichlorophenyl)-1-(3-pyridyl)-4-pentyn-1-one | ClC1=C(C=CC(=C1)Cl)C(C(=O)C=1C=NC=CC1)CC#C | C16H11Cl2NO
reactant | chloromethyltriphenylphosphonium chloride | [Cl-].ClC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-[α-chloromethylene-2,4-dichloro-β-(2-propynyl)-phenethyl]-pyridine | ClC=C(C(C1=C(C=C(C=C1)Cl)Cl)CC#C)C=1C=NC=CC1 | C17H12Cl3N
